US03952104
A mixture of 3.32 parts of 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, 1.56 parts of triphenylmethyl perchlorate and 30 parts of acetic anhydride was heated at 100°C for thirty minutes. After cooling, the reaction mixture was poured into sodium bicarbonate solution and the resulting mixture was washed with water, dried and the ether was evaporated to give an oil which was chromatographed on silica gel using a 1:1 mixture of chloroform and light petroleum (b.p. 40°-60°C) for elution. This yielded 0.14 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, m.p. 130°-131.5°C (after crystallisation from light petroleum (b.p. 40°-60°C). This product was shown by spectral means to be the same as that prepared in Example 13.

reactant | 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(CC(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H28O4
reactant | triphenylmethyl perchlorate | Cl(=O)(=O)(=O)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15ClO4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H26O4
